Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
ibuprofen
 
Attending: ___.
 
Chief Complaint:
Right flank pain s/p mechanical fall

 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ w/ HTN, HLD otherwise healthy fell 4 days ago while moving 
around his house slipping over a rug. Denies head strike, loss 
of consciousness, or other pains except for persistent left 
chest and posterior thorax pain increased with respiration. 
Patient attempted to control the pain at home with Tylenol but 
presented earlier today to urgent care with pain. He underwent 
chest, abdomen and pelvis CT scan which noted fracture of right 
sided ribs ___. No associated pneumothorax or hemothorax. 
Patient denies all other pain and is HDS with no other 
tenderness on exam but has great difficulty getting up from 
sitting or lying down. 

 
Past Medical History:
PMH: HTN, HLD

PSH: R wrist ORIF, R abdominal skin lesion excision

 
Social History:
___
Family History:
non-contributory 
 
Physical Exam:
Admission Physical Exam:

VS: 98.8 F  66  147/66 19 100% RA
Gen: AAOx3, white male accompanied by his wife
___: head atraumatic, PERRLA, EOMI, no evidence of nasal or 
ear
bleed, trachea midline, no c spine tenderness
NEURO: CN2-12 intact, no focal neuro deficits, UE and ___ ___
strength equal b/l and sensation intact
CV: RRR no MRG
Pulm: CTAB, no adventitious breath sounds but minimally 
decreased
bibasilar breath sounds
Thorax: Right thorax without evidence of hematoma or laceration,
tenderness on exam particularly lower posterior ribs
Abd: soft non tender to exam except for right subcostal margin
moderately tender to exam, sternum w/o tenderness
Spine: no C, T, L or S spine tenderness on exam, no step offs, 
no
paraspinal tenderness 
___: DP and ___ pulses intact, feet warm and sensate

Discharge Physical Exam:
VS: T: 97.5, BP: 160/99, HR: 78, RR: 18, O2: 100% RA
General: A+Ox3, NAD
CV: RRR
Chest: R lateral chest ecchymosis 
PULM: mild R chest rubbing with respirations, otherwise CTA b/l
ABD: Soft, protuberant, mildly distended, non-tender
Extremities: warm, well-perfused

 
Pertinent Results:
___ 09:35AM   GLUCOSE-95 UREA N-16 CREAT-0.8 SODIUM-134 
POTASSIUM-4.3 CHLORIDE-96 TOTAL CO2-21* ANION GAP-21*
___ 09:35AM   ALT(SGPT)-228* AST(SGOT)-212* ALK PHOS-117 
TOT BILI-1.2
___ 09:35AM   LIPASE-47
___ 09:35AM   ALBUMIN-4.8
___ 09:35AM   WBC-8.8 RBC-4.62 HGB-16.3 HCT-45.8 MCV-99* 
MCH-35.3* MCHC-35.6 RDW-12.2 RDWSD-44.5
___ 09:35AM   NEUTS-69.0 ___ MONOS-6.4 EOS-2.3 
BASOS-0.6 IM ___ AbsNeut-6.10 AbsLymp-1.82 AbsMono-0.57 
AbsEos-0.20 AbsBaso-0.05
___ 09:35AM   PLT COUNT-180

Imaging: 

1. Contiguous mildly displaced rib fractures of the right ninth 
through 
twelfth ribs.  The tenth rib is fracture both posteriorly and 
laterally. 
2. Sub 4 mm pulmonary nodules.  Mild emphysematous changes at 
the apices.  
Given the history of smoking, repeat chest CT is recommended in 
12 months. 
3. Hepatic steatosis.  Focal areas of small rounded 
hypodensities in the 
periphery of segment 4B are not fully characterized.  Liver 
ultrasound is 
recommended for further evaluation. 
4. Colonic diverticulosis without acute diverticulitis. 

 
Brief Hospital Course:
Mr. ___ is a ___ y/o M who presented to ___ on ___ 
4 days after suffering a mechanical fall.  He went to an urgent 
care center and had imaging which revealed right sided rib 
fractures ___.  He was admitted to the Trauma service for pain 
control and to monitor pulmonary function. 

On HD1, the patient had a CT chest which revealed minimal 
displacement of right ribs ___. Incidental findings of 
pulmonary nodules and hepatic steatosis were noted and 
communicated to the patient with follow-up needed as an 
outpatient.  

The remainder of the ___ hospital stay is summarized by 
systems below: 

Neuro: The patient was alert and oriented throughout 
hospitalization; pain was initially managed with IV pain 
medication and then transitioned to oral pain medication once 
tolerating a diet. 

CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.  It was 
discussed with the patient that he should have follow-up with 
his PCP regarding his hypertension. 

Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. The patient pulled 
between ___ ml on his incentive spirometer. 

GI/GU/FEN: The patient;s diet was advanced sequentially to a 
Regular diet, which was well tolerated. Patient's intake and 
output were closely monitored

ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.

HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.

Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
omeprazole 40', Toprol XL 25'

 
Discharge Medications:
1. Metoprolol Succinate XL 25 mg PO DAILY 
2. Senna 8.6 mg PO BID 
Do not take if having diarrhea 
RX *sennosides [senna] 8.6 mg 1 capsule by mouth twice a day 
Disp #*30 Capsule Refills:*0
3. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
Do not drive or use machinery when taking 
RX *oxycodone 5 mg ___ tablet(s) by mouth every four (4) hours 
Disp #*40 Tablet Refills:*0
4. Omeprazole 40 mg PO DAILY 
take as directed 
RX *omeprazole 40 mg 1 capsule(s) by mouth once a day Disp #*30 
Capsule Refills:*0
5. Nicotine Patch 14 mg TD DAILY 
6. Docusate Sodium 100 mg PO BID 
Do not take if having diarrhea 
7. Acetaminophen 650 mg PO Q8H 
Do not exceed 3 grams daily 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Contiguous mildly displaced rib fractures of the right ninth 
through twelfth ribs.  The tenth rib is fracture both 
posteriorly and laterally.
2. Sub 4 mm pulmonary nodules.  Mild emphysematous changes at 
the apices. 
3. Hepatic steatosis.  Focal areas of small rounded 
hypodensities in the periphery of segment 4B are not fully 
characterized.
4. Colonic diverticulosis without acute diverticulitis.

 
Discharge Condition:
Activity Status: Ambulatory - Independent.
Level of Consciousness: Alert and interactive.
Mental Status: Clear and coherent.

 
Discharge Instructions:
Dear ___,

You were admitted to ___ and 
underwent evaluation for your fall. You are recovering well and 
are now ready for discharge. Please follow the instructions 
below to continue your recovery:

Given your history of smoking, you will need a repeat CT of your 
lungs in 12 months. You will also need an ultrasound evaluation 
of your liver within the next couple of weeks.

* Your injury caused rib fractures which can cause severe pain 
and subsequently cause you to take shallow breaths because of 
the pain.
 
* You should take your pain medication as directed to stay ahead 
of the pain otherwise you won't be able to take deep breaths. If 
the pain medication is too sedating take half the dose and 
notify your physician.
 
* Pneumonia is a complication of rib fractures.  In order to 
decrease your risk you must use your incentive spirometer 4 
times every hour while awake.  This will help expand the small 
airways in your lungs and assist in coughing up secretions that 
pool in the lungs.
 
* You will be more comfortable if you use a cough pillow to hold 
against your chest and guard your rib cage while coughing and 
deep breathing.
 
* Symptomatic relief with ice packs or heating pads for short 
periods may ease the pain.
 
* Narcotic pain medication can cause constipation therefore you 
should take a stool softener twice daily and increase your fluid 
and fiber intake if possible.
 
* Do NOT smoke
 
* If your doctor allows, non-steroidal ___ drugs 
are very effective in controlling pain ( ie, Ibuprofen, Motrin, 
Advil, Aleve, Naprosyn) but they have their own set of side 
effects so make sure your doctor approves.
 
* Return to the Emergency Room right away for any acute 
shortness of breath, increased pain or crackling sensation 
around your ribs (crepitus).

 
Followup Instructions:
___